US03980784
A 6 g. portion of 1-hydroxy-4-nitro-2,6-bis(trifluoromethyl)benzimidazole was mixed with 50 ml. of methanol, 10 ml. of ethyl iodide, and 2.5 g. of sodium ethoxide. The mixture was heated at reflux temperature overnight with stirring, and was then cooled and evaporated to dryness. The residue was taken up in ether, and the ether solution was washed with water. The ether layer was then evaporated to dryness, and the residue was recrystallized from petroleum ether to produce the desired 1-ethoxy-4-nitro-2,6-bis(trifluoromethyl)benzimidazole, m.p. 94°-96°C.

reactant | 1-hydroxy-4-nitro-2,6-bis(trifluoromethyl)benzimidazole | ON1C(=NC2=C1C=C(C=C2[N+](=O)[O-])C(F)(F)F)C(F)(F)F | C9H3F6N3O3
reactant | ethyl iodide | C(C)I | C2H5I
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | methanol | CO | CH4O
product | 1-ethoxy-4-nitro-2,6-bis(trifluoromethyl)benzimidazole | C(C)ON1C(=NC2=C1C=C(C=C2[N+](=O)[O-])C(F)(F)F)C(F)(F)F | C11H7F6N3O3
